US07902367B2
Methyl 2-amino-5-[3-[[2-(4-chlorophenyl)-4-methylthiazole-5-carbonyl]amino]piperidin-1-yl]benzoate
Methyl 5-[3-[[2-(4-chlorophenyl)-4-methylthiazole-5-carbonyl]amino]piperidin-1-yl]-2-nitrobenzoate (14.6 g, 28.4 mmol) was suspended in acetic acid (140 mL). To this suspension, reduced iron (9.49 g, 170 mmol) was added and the mixture was stirred at 80° C. for 3 hours. The mixture was then allowed to cool and was filtered through Celite. The solvent was removed and a saturated aqueous sodium bicarbonate solution was added to the residue to make it basic. The crystallized powdery product was collected by filtration and washed with water. The resulting powder was dissolved in ethyl acetate and was filtered through Celite. The solvent was then removed to give 12.7 g (26.2 mmol, 92%) of the desired compound as a pale yellow powder.

reactant | Methyl 5-[3-[[2-(4-chlorophenyl)-4-methylthiazole-5-carbonyl]amino]piperidin-1-yl]-2-nitrobenzoate | 28.4 mmol, 14.6 g | ClC1=CC=C(C=C1)C=1SC(=C(N1)C)C(=O)NC1CN(CCC1)C=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C24H23ClN4O5S
solvent | acetic acid | 140 mL | C(C)(=O)O | C2H4O2
product | Methyl 2-amino-5-[3-[[2-(4-chlorophenyl)-4-methylthiazole-5-carbonyl]amino]piperidin-1-yl]benzoate | 26.2 mmol, 12.7 g, 92% | NC1=C(C(=O)OC)C=C(C=C1)N1CC(CCC1)NC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)C | C24H25ClN4O3S
